US09102662B2
Preparation of N-[5-(3,5-difluorobenzyl)-1H-indazol-3-yl]-2-{[(1-methylazetidin-3-yl)methyl]amino}-4-(4-methylpiperazin-1-yl)benzamide [(IA), R1=R2=R3=H, R=3,5-difluorophenyl, Ar=4-(4-methyl-piperazin-1-yl)-2-[(1-methylazetidin-3-ylmethyl)amino]-phenyl] cpd. 107
To a solution of 2-[(azetidin-3-ylmethyl)amino]-N-[5-(3,5-difluorobenzyl)-1H-indazol-3-yl]-4-(4-methylpiperazin-1-yl)benzamide (100 mg, 0.14 mmol) in dichloromethane (2 mL) were added formaldehyde 37 wt. % in water (0.014 mL, 0.168 mmol), TEA (0.4 mmol) and sodium triacetoxyborohydride (45 mg, 0.21 mmol). The mixture was stirred at room temperature overnight, diluted with dichloromethane, washed with aqueous NaHCO3 sat. sol., water and brine. Organic phase was dried over sodium sulfate and evaporated to dryness. The crude was purified by flash chromatography on silica gel using dichloromethane/methanol/NH3 5N in MeOH 100:10:1 as the eluant, affording 5 mg of the title compound.

reactant | 2-[(azetidin-3-ylmethyl)amino]-N-[5-(3,5-difluorobenzyl)-1H-indazol-3-yl]-4-(4-methylpiperazin-1-yl)benzamide | 0.14 mmol, 100 mg | N1CC(C1)CNC1=C(C(=O)NC2=NNC3=CC=C(C=C23)CC2=CC(=CC(=C2)F)F)C=CC(=C1)N1CCN(CC1)C | C30H33F2N7O
reactant | formaldehyde | C=O | CH2O
reactant | water | 0.168 mmol, 0.014 mL | O | H2O
reactant | sodium triacetoxyborohydride | 0.21 mmol, 45 mg | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
solvent | dichloromethane | 2 mL | ClCCl | CH2Cl2
product | N-[5-(3,5-difluorobenzyl)-1H-indazol-3-yl]-2-{[(1-methylazetidin-3-yl)methyl]amino}-4-(4-methylpiperazin-1-yl)benzamide | 5 mg | FC=1C=C(CC=2C=C3C(=NNC3=CC2)NC(C2=C(C=C(C=C2)N2CCN(CC2)C)NCC2CN(C2)C)=O)C=C(C1)F | C31H35F2N7O
